US04626538
[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]ethylcarbamic acid, methyl ester
A 2.76 g portion of [3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]ethylcarbamic acid, methyl ester was reacted with 1.08 g of 3-aminopyrazole-4-carbonitrile as described in Example 13, giving 2.6 g of the desired product, mp 162°-164° C.

reactant | [3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]ethylcarbamic acid, methyl ester | CN(C=CC(=O)C=1C=C(C=CC1)CCNC(OC)=O)C | C15H20N2O3
reactant | 3-aminopyrazole-4-carbonitrile | 1.08 g | NC1=NNC=C1C#N | C4H4N4
product | [3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]ethylcarbamic acid, methyl ester | 2.6 g | C(#N)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)CCNC(OC)=O | C17H15N5O2
